US04409214
To a suspension of benzhydryl 7-benzylideneamino-3-vinyl-3-cephem-4-carboxylate (8.6 g) in anisole (10 ml) was added dropwise trifluoroacetic acid (10 ml) at -20° C., and the reaction temperature was gradually raised to ambient temperature with stirring, followed by stirring at ambient temperature for half an hour. The reaction mixture was poured into a mixture of ethyl acetate (100 ml) and a saturated aqueous sodium bicarbonate (100 ml), and then the mixture was adjusted to pH 7.5 with 20% aqueous sodium carbonate. The separated aqueous solution was washed with ethyl acetate (100 ml) and adjusted to pH 7.2 with conc. hydrochloric acid, followed by subjecting to column chromatography on alumina (10 ml). Elution was carried out with 15% aqueous sodium chloride, and fractions containing a desired compound were collected and then adjusted to pH 3.3 with conc. hydrochloric acid. The precipitated crystals were collected by filtration, washed with acetone and dried to obtain 7-amino-3-vinyl-3-cephem-4-carboxylic acid (2.0 g), mp 200°-230° C. (dec.).

reactant | benzhydryl 7-benzylideneamino-3-vinyl-3-cephem-4-carboxylate | 8.6 g | C(C1=CC=CC=C1)=NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H24N2O3S
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | anisole | 10 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 7-amino-3-vinyl-3-cephem-4-carboxylic acid | 2.0 g | NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O | C9H10N2O3S
